US04215037
2. H-Thr(But)-Ser(But)-OH.HCl
25 g (55.24 mmols) of Z-Thr(But)-Ser(But)OH were dissolved in 200 ml of methanol and catalytically hydrogenated (pH 4.5) on an autotitrator with the addition of methanolic HCl. When hydrogenation was complete, the Pd/BaSO4 catalyst was removed by suction filtration, the filtrate was concentrated and dried in a high vacuum. Yield 21.1 g of an amorphous product (19.60 g 100%).

reactant | Z-Thr(But)-Ser(But)OH | 55.24 mmols, 25 g | N([C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)O)C(=O)OCC1=CC=CC=C1 | C23H36N2O7
reactant | HCl | Cl | ClH
solvent | methanol | 200 ml | CO | CH4O
product | H-Thr(But)-Ser(But)-OH.HCl | N[C@@H]([C@H](OC(C)(C)C)C)C(=O)N[C@@H](COC(C)(C)C)C(=O)O.Cl | InChI=1S/C15H30N2O5.ClH/c1-9(22-15(5,6)7)11(16)12(18)17-10(13(19)20)8-21-14(2,3)4;/h9-11H,8,16H2,1-7H3,(H,17,18)(H,19,20);1H/t9-,10+,11+;/m1./s1
